US09290517B2
Step B: (3R,3aR,6R,6aR)-6-((2-([1,1′-biphenyl]-4-yl)-7H-purin-8-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol
To 2-([1,1′-biphenyl]-4-yl)-8-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-purine (38.0 mg, 0.057 mmol) in anhydrous DCM (1.8 mL) was added TFA (1.33 mL, 17.25 mmol). The solution stirred at RT for 22 h. The reaction solution cooled to 0° C. and 1N NaOH (18.2 mL, 18.2 mmol) and EtOAc (60 mL) added. The organic layer washed with brine (20 mL), dried over Na2SO4, filtered, and evaporated under reduced pressure. Flash chromatography utilizing a 12 g silica RediSep Rf® Gold column and employing a 0-15% MeOH/DCM gradient afforded the title compound. LC-MS: calculated for C23H20N4O4 416.15 observed m/e: 417.36 (M+H)+ (Rt 0.93/2.0 min).

reactant | 2-([1,1′-biphenyl]-4-yl)-8-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-purine | 0.057 mmol, 38.0 mg | C1(=CC=C(C=C1)C1=NC=C2N(C(=NC2=N1)O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)O[Si](C)(C)C(C)(C)C)COCC[Si](C)(C)C)C2=CC=CC=C2 | C35H48N4O5Si2
reactant | TFA | 17.25 mmol, 1.33 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 18.2 mmol, 1N, 18.2 mL | [OH-].[Na+]
reactant | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
solvent | DCM | 1.8 mL | C(Cl)Cl | CH2Cl2
product | (3R,3aR,6R,6aR)-6-((2-([1,1′-biphenyl]-4-yl)-7H-purin-8-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol | C1(=CC=C(C=C1)C1=NC=C2NC(=NC2=N1)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2O)C2=CC=CC=C2 | C23H20N4O4
